US06130187
Preparation of 3-(4-chloro-3-hydroxyamino-2-methylbenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil (Compound No. 305)
5 ml of acetic acid, 200 ml of ethyl acetate and 100 ml of water were added to 2.3 g (5.7 mmol) of 3-(4-chloro-2-methyl-3-nitrobenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil and 1.6 g (28 mmol) of iron powder, followed by stirring for 2 hours under heating and refluxing. After completion of the reaction, insoluble matters were filtered off. The organic layer was washed sequentially with water and a sodium chloride aqueous solution and then, dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. Then, the obtained residue was purified by silica gel column chromatography to obtain 1.2 g (yield: 54%) of the desired product as pale yellow crystals. Melting point: 134-136° C.

reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
reactant | 3-(4-chloro-2-methyl-3-nitrobenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil | 5.7 mmol, 2.3 g | ClC1=CC=C(C2=C1C(=C(O2)C)[N+](=O)[O-])N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C15H9ClF3N3O5
catalyst | iron | 28 mmol, 1.6 g | [Fe] | Fe
solvent | water | 100 ml | O | H2O
product | 3-(4-chloro-3-hydroxyamino-2-methylbenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil | 1.2 g, yield: 54% | ClC1=CC=C(C2=C1C(=C(O2)C)NO)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C15H11ClF3N3O4
